US09290517B2
(3R,3aR,6R,6aR)-6-[(6-chloro-5-iodo-1H-imidazo[4,5-b]pyridin-2-yl)oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
Trifluoroacetic acid (70.0 ml, 909 mmol) was added to a stirred solution of (3R,3aR,6R,6aR)-6-[6-chloro-5-iodo-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (14.99 g, 27.1 mmol) in dichloromethane (70 ml). The reaction mixture was an amber solution that was stirred at room temperature. After 3 hours, the reaction mixture was concentrated under reduced pressure to give an amber oil. Methanol (50 ml) was added and the resulting solution was stirred at room temperature. After about 5 minutes, the product crystallized and precipitated to give a white suspension. Dichloromethane (50 ml) was added to the reaction mixture. The crystalline product was collected from the reaction mixture by vacuum filtration and was dried overnight under vacuum to give the title compound as a crystalline white solid. LC-MS: calculated for C12H11ClIN3O4 422.95 observed m/e: 424.0 (M+H)+ (Rt 0.92/2 min).

reactant | Trifluoroacetic acid | 909 mmol, 70.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (3R,3aR,6R,6aR)-6-[6-chloro-5-iodo-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 27.1 mmol, 14.99 g | ClC=1C=C2C(=NC1I)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C18H25ClIN3O5Si
reactant | Methanol | 50 ml | CO | CH4O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (3R,3aR,6R,6aR)-6-[(6-chloro-5-iodo-1H-imidazo[4,5-b]pyridin-2-yl)oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1I)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C12H11ClIN3O4
